US09403810B2
Step 3: 5-Cyclohexyl-N-(2-cyclohexyl-1,5-dimethyl-3-oxo-2,3-dihydro-1H-pyrazol-4-yl)-4-methylisoxazole-3-carboxamide
To 5-bromo-N-(2-cyclohexyl-1,5-dimethyl-3-oxo-2,3-dihydro-1H-pyrazol-4-yl)-4-methylisoxazole-3-carboxamide (75 mg, 0.189 mmol) was added cyclohexylzinc(II) bromide (0.5M in THF) (1133 μL, 0.566 mmol) and bis(tri-t-butylphosphine)palladium(0) (9.65 mg, 0.019 mmol) and the mixture was stirred at 100° C. in the microwave for 30 minutes. The resulting mixture was diluted with EtOAc and filtered and the solvent was removed under reduced pressure. The crude material was adsorbed onto silica and purification by chromatography eluting with 0-100% EtOAc in iso-hexane afforded the title compound;

reactant | 5-bromo-N-(2-cyclohexyl-1,5-dimethyl-3-oxo-2,3-dihydro-1H-pyrazol-4-yl)-4-methylisoxazole-3-carboxamide | 0.189 mmol, 75 mg | BrC1=C(C(=NO1)C(=O)NC=1C(N(N(C1C)C)C1CCCCC1)=O)C | C16H21BrN4O3
reactant | cyclohexylzinc(II) bromide | 0.566 mmol, 0.5M, 1133 μL | [Br-].C1(CCCCC1)[Zn+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | bis(tri-t-butylphosphine)palladium(0) | 0.019 mmol, 9.65 mg | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
product | 5-Cyclohexyl-N-(2-cyclohexyl-1,5-dimethyl-3-oxo-2,3-dihydro-1H-pyrazol-4-yl)-4-methylisoxazole-3-carboxamide | C1(CCCCC1)C1=C(C(=NO1)C(=O)NC=1C(N(N(C1C)C)C1CCCCC1)=O)C | C22H32N4O3
